US04460579
(f) (±)-Dihydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester
A mixture of crude chloro (4-phenylbutyl)phosphinic acid, ethyl ester (2.44 mmole), dry tetrahydrofuran (10 ml.), and (±)-3-amino-3,4-dihydro-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester (0.65 g., 2.05 mmole) at 0° (ice bath) in an argon atmosphere is treated dropwise with triethylamine (0.86 ml., 3.0 eq.) in tetrahydrofuran (5 ml.) over 1 minute. After standing at 0° for 20 minutes the ice bath is removed and the reaction mixture is stirred for 16 hours. The reaction mixture is diluted with ethyl acetate and washed successively with saturated sodium bicarbonate, 5% potassium bisulfate and brine, dried (MgSO4), and evaporated. The residue (1.2 g.) is chromatographed on silica (60 g.) eluting with acetone/hexane (1:1) to give 0.8 g. of (±)-dihydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester as an oil after evaporation. TLC (acetone/hexane; 2:1) two spots at Rf =0.59,0.65(isomers at phosphorus).

reactant | chloro (4-phenylbutyl)phosphinic acid, ethyl ester | 2.44 mmole | ClP(OCC)(=O)CCCCC1=CC=CC=C1 | C12H18ClO2P
reactant | (±)-3-amino-3,4-dihydro-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester | 2.05 mmole, 0.65 g | NC1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2 | C13H16N2O3S
reactant | triethylamine | 0.86 ml, 3.0 eq. | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (±)-Dihydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester | C(C)OP(=O)(CCCCC1=CC=CC=C1)NC1CSC=2C(N(C1=O)CC(=O)OCC)CC=CC2 | C25H35N2O5PS
